US09340538B2
4-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(1H-1,2,4-triazol-1-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-2-carboxylic acid
Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(1H-1,2,4-triazol-1-yl)-1,4-dihydropyrimidine-5-carboxylate (0.5 g, 1.03 mmol) was reacted with morpholine-2-carboxylic acid hydrochloride (0.21 g, 1.23 mmol) according to the procedure as described in Example 1, Step C to give the title compound as a pale yellow solid (0.18 g, 33%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(1H-1,2,4-triazol-1-yl)-1,4-dihydropyrimidine-5-carboxylate | 1.03 mmol, 0.5 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CBr)N1N=CN=C1 | C16H14Br2FN5O2
reactant | morpholine-2-carboxylic acid hydrochloride | 1.23 mmol, 0.21 g | Cl.N1CC(OCC1)C(=O)O
product | 4-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(1H-1,2,4-triazol-1-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-2-carboxylic acid | 0.18 g, 33% | BrC1=C(C=CC(=C1)F)C1C(=C(NC(=N1)N1N=CN=C1)CN1CC(OCC1)C(=O)O)C(=O)OCC | C21H22BrFN6O5
